US08008321B2
Synthesis of tert-butyl imidazo[1,5-a]pyridine-6-carboxylate
3.37 ml (14.06 mmol) of N,N-dimethylformamide di(tertbutyl)acetal are added to 570 mg (3.52 mmol) of imidazo[1,5-a]pyridine-6-carboxylic acid [described in Bioorg. Med. Chem. Lett., (2002), 12(3), 465-470] in a mixture of 5 ml of dimethylformamide and 5 ml of toluene and the mixture is heated at 90° C. for 6 hours. 3.37 ml (14.06 mmol) of N,N-dimethylformamide di(tert-butyl)acetal are again added to the reaction medium and the mixture is heated at 90° C. for a further 4 hours. The reaction medium is poured onto water and extracted with ethyl acetate. The organic phase is separated by settling, washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure. The product is purified by filtration through a bed of silica, elution being carried out with a mixture of dichloromethane and methanol (98/2). After evaporation, 580 mg of a beige powder are obtained. Melting point: 77° C.; 1H NMR (d6-DMSO): 1.59 (9H, s), 7.71 (1H, d), 7.36 (1H, s), 7.58 (1H, d), 8.56 (1H, s), 9.03 (1H, s).

reactant | N,N-dimethylformamide di(tertbutyl)acetal | 14.06 mmol, 3.37 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | imidazo[1,5-a]pyridine-6-carboxylic acid | 3.52 mmol, 570 mg | C=1N=CN2C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | N,N-dimethylformamide di(tert-butyl)acetal | 14.06 mmol, 3.37 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl imidazo[1,5-a]pyridine-6-carboxylate | C=1N=CN2C1C=CC(=C2)C(=O)OC(C)(C)C | C12H14N2O2
